US06495546B1
To N-(3-isopropoxy-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-yl)-N-[(2S)-3-phenoxy-2-(triethylsilyloxy)propyl]-tert-butoxycarbonylamine (79 mg) was added 4N hydrogen chloride in ethyl acetate (3 ml) at room temperature, and the mixture was stirred at room temperature for 1 hour. After evaporation in vacuo, the residue was triturated with diisopropyl ether and dried in vacuo to give (2S)-1-(3-isopropoxy-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-yl)amino-3-phenoxy-2-propanol hydrochloride (35 mg)

reactant | N-(3-isopropoxy-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-yl)-N-[(2S)-3-phenoxy-2-(triethylsilyloxy)propyl]-tert-butoxycarbonylamine | 79 mg | C(C)(C)OC1=CC2=C(CCCC(C2)N(C[C@@H](COC2=CC=CC=C2)O[Si](CC)(CC)CC)C(=O)OC(C)(C)C)C=C1 | C34H53NO5Si
reactant | hydrogen chloride | 4N | Cl | ClH
solvent | ethyl acetate | 3 ml | C(C)(=O)OCC | C4H8O2
product | (2S)-1-(3-isopropoxy-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-yl)amino-3-phenoxy-2-propanol hydrochloride | 35 mg | Cl.C(C)(C)OC1=CC2=C(CCCC(C2)NC[C@@H](COC2=CC=CC=C2)O)C=C1 | InChI=1S/C23H31NO3.ClH/c1-17(2)27-23-12-11-18-7-6-8-20(13-19(18)14-23)24-15-21(25)16-26-22-9-4-3-5-10-22;/h3-5,9-12,14,17,20-21,24-25H,6-8,13,15-16H2,1-2H3;1H/t20?,21-;/m0./s1
